US06410795B1
Preparation of Benzoylstearoylmethane (SBM)
In a procedure analogous to Example 6, acetophenone was condensed with methyl stearate in cumene using sodium tert-butoxide (15.6 g, 0.163 mol). The acetophenone (15.0 g; 0.125 mol) was added over a period of 28 min, and no methanol was removed from the mixture by distillation. Crude SBM (44.76 g) was obtained. This crude was not purified by crystallization. It was possible, however, to quantitate the amount of SBM present by running a proton NMR spectrum at 54° C. of a sample dissolved in deuterated methanol. The total amount of SBM in the product was 32.65 g, that is, 73% of the sample, corresponding to a yield of 67% for the condensation. The impurities mainly comprised stearic acid and unreacted methyl stearate.

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | methyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC | C19H38O2
reactant | sodium tert-butoxide | 0.163 mol, 15.6 g | CC(C)([O-])C.[Na+]
reactant | acetophenone | 0.125 mol, 15.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
solvent | cumene | C1(=CC=CC=C1)C(C)C | C9H12
product | Benzoylstearoylmethane | yield of 67% | C(C1=CC=CC=C1)(=O)CCCCCCCCCCCCCCCCCC(=O)C | C26H42O2
